US07307172B2
Preparation of 5-chloro-6-isopropyl-7-cyclopentylamino-[1,2,4]-triazolo-[1,5-α]-pyrimidine
With stirring, a mixture of 0.13 g (1.5 mmol) of cyclopentylamine and 0.15 g (1.5 mmol) of triethylamine in 10 ml of methylene chloride was added to a mixture of 0.34 g (1.5 mmol) of 5,7-dichloro-6-isopropyl-[1,2,4]-triazolo-[1,5-α]-pyrimidine (cf. Ex. 2) in 20 ml of methylene chloride. The reaction mixture was stirred at room temperature for 16 h and then washed with 5% strength hydrochloric acid. The organic phase was separated off, dried over sodium sulfate and filtered. The filtrate was freed from the solvent and the residue was purified chromatographically. This gave 0.32 g (1.14 mmol) of the title compound (melting point 139° C.).

reactant | cyclopentylamine | 1.5 mmol, 0.13 g | C1(CCCC1)N | C5H11N
reactant | triethylamine | 1.5 mmol, 0.15 g | C(C)N(CC)CC | C6H15N
reactant | 5,7-dichloro-6-isopropyl-[1,2,4]-triazolo-[1,5-α]-pyrimidine | 1.5 mmol, 0.34 g | ClC1=NC=2N(C(=C1C(C)C)Cl)N=CN2 | C8H8Cl2N4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-6-isopropyl-7-cyclopentylamino-[1,2,4]-triazolo-[1,5-α]-pyrimidine | 1.14 mmol, 0.32 g | ClC1=NC=2N(C(=C1C(C)C)NC1CCCC1)N=CN2 | C13H18ClN5
